US06930104B2
1-(3,4-Dimethoxybenzoyl)-2-methyl-4-(2,3,4,5-tetrahydro-1H-benzazepin-1-yl)-1,2,3,4-tetrahydroquinoline
Starting with cis-1-(3,4-dimethoxybenzoyl)-2-methyl-1,2,3,4-tetrahydro-4-quinolinol (280 mg, 0.82 mmol) prepared in Reference Example 1 and 2,3,4,5-tetrahydro-1H-1-benzazepine (362 mg, 2.46 mmol), the same procedure as shown in Example 1 was repeated to give the titled compound (32 mg, yield: 9%) as a colorless oil. (cis:trans=1:1.5)

reactant | cis-1-(3,4-dimethoxybenzoyl)-2-methyl-1,2,3,4-tetrahydro-4-quinolinol | 0.82 mmol, 280 mg | COC=1C=C(C(=O)N2[C@H](C[C@H](C3=CC=CC=C23)O)C)C=CC1OC | C19H21NO4
reactant | 2,3,4,5-tetrahydro-1H-1-benzazepine | 2.46 mmol, 362 mg | N1CCCCC2=C1C=CC=C2 | C10H13N
product | 1-(3,4-Dimethoxybenzoyl)-2-methyl-4-(2,3,4,5-tetrahydro-1H-benzazepin-1-yl)-1,2,3,4-tetrahydroquinoline | 32 mg, yield: 9% | COC=1C=C(C(=O)N2C(CC(C3=CC=CC=C23)N2CCCCC3=C2C=CC=C3)C)C=CC1OC | C29H32N2O3
